US07531545B2
To an ice cooled solution of [cyclohexyl-(methoxy-methyl-carbamoyl)-methyl]-carbamic acid tert-butyl ester (12.3 g, 40 mmol) in THF (100 mL) was slowly added LAH (1M in THF; 45 mL), with the reaction mixture temperature maintained below 5° C. The ice bath was removed, and the reaction mixture was stirred at room temperature for 20 min. A solution of NaHSO4 (7.3 g) in water (10 mL) was then slowly added to the reaction mixture to quench the reaction. The reaction mixture was then filtered through Celite. EtOAc (300 mL) was added to the filtrate, and the organic layer washed with aqueous NaCl solution, dried with MgSO4 and evaporated to yield (1-cyclohexyl-2-oxo-ethyl)-carbamic acid tert-butyl ester as an oil, which was used in the next step without further purification.

reactant | [cyclohexyl-(methoxy-methyl-carbamoyl)-methyl]-carbamic acid tert-butyl ester | 40 mmol, 12.3 g | C(C)(C)(C)OC(NC(C(N(C)OC)=O)C1CCCCC1)=O | C15H28N2O4
reactant | LAH | 1M, 45 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (1-cyclohexyl-2-oxo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C=O)C1CCCCC1)=O | C13H23NO3
